US20010018525A1
step 2 4-(heptyloxy)benzylamine
To a stirred suspension of lithium aluminum hydride (1.928 g, 52.23 mmol) in THF (150 ml) at room temperature under nitrogen was added a suspension of 4-(heptyloxy)benzamide (6.146 g, 26.117 minol). After refluxing for 22h, reaction was cooled in an ice bath and quenched in the following order: water (2.09 ml), 15% NaOH (2.09 ml) and water (6.26 ml). The mixture was stirred for 3 h followed by the addition of Na2SO4. The mixture was filtered and concentrated in vac. The residue was taken up in Et2O, filtered, concentrated, and the resulting residue taken up in hexane, filtered, concentrated, and dried to give the desired product as a hazy yellow oil (4.872 g, 84%); 1H NMR (400 MHz, DMSO-d6) δ0.86 (t, J=7 Hz, 3H), 1.22-1.42 (m, 8H), 1.64-1.72 (m, 2H), 1.82 (broad s, 2H), 3.13 (s, 2H), 3.89 (t, J=6.6 Hz, 2H), 6.80-6.84 (m, 2H), 7.17-7.21 (m, 2H); IR (film) 2940, 2850, 1510, 1250 cm−1; mass spectrum [(+)ESI], m/z 222 (M+H)+.

reactant | lithium aluminum hydride | 52.23 mmol, 1.928 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(heptyloxy)benzamide | 6.146 g | C(CCCCCC)OC1=CC=C(C(=O)N)C=C1 | C14H21NO2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 4-(heptyloxy)benzylamine | 4.872 g, 84% | C(CCCCCC)OC1=CC=C(CN)C=C1 | C14H23NO
